US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(2-hydroxythiazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid Ethyl Ester
2-Hydroxy-5-thiazolecarboxylic acid (9.0 mg, 62 μmol) and HATU (28.3 mg, 74 μmol) were stirred in DMA (0.5 mL, 5 mmol) for 10 minutes. (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester (22.7 mg, 62 μmol) and DIPEA (32.4 μL, 186 μmol) were added, and resulting mixture was stirred at room temperature for 2 hours. The mixture was then concentrated under reduced pressure and the residue was dissolved in 50% AcOH-water (1.5 mL), filtered, purified by reverse phase preparative HPLC, and lyophilized to yield the title compound (11.9 mg, purity 96%) as a TFA salt. MS m/z [M+H]+ calc'd for C22H21ClFN3O5S, 494.09. found 494.4.

reactant | 2-Hydroxy-5-thiazolecarboxylic acid | 62 μmol, 9.0 mg | OC=1SC(=CN1)C(=O)O | C4H3NO3S
reactant | HATU | 74 μmol, 28.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMA | 5 mmol, 0.5 mL | CC(=O)N(C)C | C4H9NO
reactant | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid ethyl ester | 62 μmol, 22.7 mg | C(C)OC([C@@H](CN(N)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C18H20ClFN2O3
reactant | DIPEA | 186 μmol, 32.4 μL | CCN(C(C)C)C(C)C | C8H19N
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(2-hydroxythiazole-5-carbonyl)hydrazino]-2-hydroxypropionic Acid Ethyl Ester | 11.9 mg | C(C)OC([C@@H](CN(NC(=O)C1=CN=C(S1)O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C22H21ClFN3O5S
